US04174285
A mixture of 1-hydroxybenzotriazole (30.6 g), N,N-dimethylformamide (150 ml), 1-chlorooctane (32.7 g) and potassium carbonate (50 g) was heated at 135° C. for 0.5 hr. while stirring. The reaction mixture was poured into water and the resulting mixture was extracted with benzene. The benzene extract was dried and stripped of solvent by rotary evaporation and distillation to a pot temperature of 100 C. at a pressure of less than 0.1 mm of mercury. The product, n-octyl 1-benzotriazolyl ether was obtained as a clear yellow oil residue. The elemental analysis was as follows:

reactant | 1-hydroxybenzotriazole | 30.6 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | N,N-dimethylformamide | 150 ml | CN(C=O)C | C3H7NO
reactant | 1-chlorooctane | 32.7 g | ClCCCCCCCC | C8H17Cl
reactant | potassium carbonate | 50 g | C([O-])([O-])=O.[K+].[K+]
solvent | water | O | H2O
product | n-octyl 1-benzotriazolyl ether | N1(N=NC2=C1C=CC=C2)OCCCCCCCC | C14H21N3O
